Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fevers, decreased exercise tolerance, throat pain
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy ___ and ___

 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with no significant past
medical history who is referred from an OSH for concern for 
acute
leukemia. 

Five weeks prior to admission, Mr. ___ began with an episode
of chills/fever and sore throat. He saw a physician in urgent
care and received a course of antibiotics (unclear which). His
fevers/chills subsided and the sore throat improved but about 3
weeks prior to admission his sore throat and fevers returned, 
his
sore throat was severe enough to prevent him from eating much. 
He
seen in urgent care again, was tested for mononucleosis and 
strep
which were negative and was given another course of antibiotics
(cephalexin) with no improvement. Three days prior to admission
he was noticed to have a hoarse voice, neck pain prompting him 
to
see a dental surgeon who removed 'an infected tooth' and started
him on amoxicillin-clavulanate. Given worsening of his 
hoarseness
and some throat pressure as well as fevers as high as 103 he
decided to go to an OSH ED were he was found to have WBC 67 and
tonsillar abscess on CT neck prompting transfer to ___. Prior
to transfer he received 2L IVF, ampicillin-sulbactam, amikacin,
fluconazole. 
 
ED initial vitals were   96.2 112 127/73 16 95% RA 
Prior to transfer vitals were  98.5 100 101/59 18 97% RA 

Exam in the ED showed : "HEENT: Notable for large cervical LAD,
non-tender; Poor dentition CV: Normal S1, S2, no m/r/g
Resp: clear lung sounds bilaterally to auscultation"
 
ED work-up significant for:
-CBC: WBC: 77.1* HGB: 6.0*. Plt Count: 95* . Neuts%: 9* Other%
73*
-Chemistry: Na: 137. K: 3.4. Cl: 103. CO2: 21*. BUN: 13. Creat:
1.2. Ca: 7.8*. Mg: 1.9. PO4: 1.9*. 
-Lactate: 1.1
-Coags: INR: 1.3*. PTT: 25.5. FBG 478
-LFTs: ALT: 12. AST: 17. Alk Phos: 62. Total Bili: 0.4. 

ED management significant for:
-Medications: cefepime 2g, vancomycin 1g, allopurinol ___,
hydroxyurea 2g,  
-Transfusions: None
-Procedures: Bone Marrow Biopsy by ___ Fellow
-Consult: ___

On arrival to the floor, patient reports feeling much better
since he received steroids

Patient denies headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, cough, hemoptysis, chest pain, palpitations, abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes. 
 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of cancer to the best of his recollection
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.1 PO 130 / 60 71 20 100 RA 
GENERAL: Pale appearing gentleman in no distress lying, in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, bilaterally
enlarged and erythematous tonsils protruding close to midline
with prominent yellow exudates.
LYMPH: 3x4cm enlarged non-tender bilateral posterior cervical
nodes, no supraclavicular / axillary / inguinal lymphadenopathy.
CARDIAC: Regular rate and rhythm, normal heart sounds, systolic
multifocal ejection murmur. No rubs or gallops.
LUNG: Appears in no respiratory distress, bibasilar wheezing, no
crackles or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
VS: 98.0, 106 / 64, 103, 20, 98 RA 

GENERAL: Well-appearing middle-aged male in no acute distress
resting comfortably in bed.
HEENT: Anicteric sclerae.  Moist mucous membranes. Palatine
tonsils with minimal edema and white exudate.
CV: Regular rate and rhythm, normal S1 and S2, no murmurs, rubs,
gallops, or thrills.
LUNG: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi.  Good respiratory effort.
ABD: No scars.  Normal bowel sounds.  Soft, nontender,
nondistended.  No rebound tenderness or guarding.  No
hepatosplenomegaly.
EXT: Warm and well perfused.  No clubbing, cyanosis, or lower
extremity edema.
NEURO: A&O 3. Moving all 4 extremities with purpose.
SKIN: Moderate pallor.  Bilateral petechial rash on the inner
left and right thighs resolved.
 
Pertinent Results:
ADMISSION LABS:
___ 05:00PM   WBC-77.1* RBC-1.86* HGB-6.0* HCT-18.2* MCV-98 
MCH-32.3* MCHC-33.0 RDW-16.2* RDWSD-56.5*
___ 05:00PM   NEUTS-9* BANDS-2 LYMPHS-14* MONOS-26* EOS-0 
BASOS-0 ___ MYELOS-0 BLASTS-49* OTHER-0 
AbsNeut-8.48* AbsLymp-10.79* AbsMono-20.05* AbsEos-0.00* 
AbsBaso-0.00*
___ 05:00PM   HYPOCHROM-NORMAL ANISOCYT-1+* 
POIKILOCY-OCCASIONAL MACROCYT-OCCASIONAL MICROCYT-OCCASIONAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL TEARDROP-OCCASIONAL
___ 05:00PM   GLUCOSE-144* UREA N-13 CREAT-1.2 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-21* ANION GAP-13
___ 05:00PM   ALT(SGPT)-12 AST(SGOT)-17 LD(LDH)-443* ALK 
PHOS-62 TOT BILI-0.4
___ 05:00PM   ALBUMIN-3.4* CALCIUM-7.8* PHOSPHATE-1.9* 
MAGNESIUM-1.9 URIC ACID-6.5
___ 05:00PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 05:00PM   HIV Ab-NEG
___ 05:00PM   HCV Ab-NEG
___ 05:09PM   LACTATE-1.1
___ 05:29PM   ___
___ 05:29PM   ___ PTT-25.5 ___

PERTINENT LABS:
___ 01:29PM BLOOD WBC-62.3* RBC-2.08* Hgb-6.8* Hct-19.3* 
MCV-93 MCH-32.7* MCHC-35.2 RDW-17.0* RDWSD-57.1* Plt Ct-71*
___ 10:00PM BLOOD WBC-36.0* RBC-2.11* Hgb-6.8* Hct-19.5* 
MCV-92 MCH-32.2* MCHC-34.9 RDW-17.2* RDWSD-57.2* Plt Ct-68*
___ 02:40PM BLOOD WBC-14.5* RBC-2.24* Hgb-7.1* Hct-20.5* 
MCV-92 MCH-31.7 MCHC-34.6 RDW-16.6* RDWSD-54.7* Plt Ct-49*
___ 06:00AM BLOOD WBC-3.2*# RBC-2.03* Hgb-6.3* Hct-18.6* 
MCV-92 MCH-31.0 MCHC-33.9 RDW-16.2* RDWSD-53.3* Plt Ct-43*
___ 05:02AM BLOOD WBC-0.6* RBC-2.14* Hgb-6.8* Hct-19.3* 
MCV-90 MCH-31.8 MCHC-35.2 RDW-15.9* RDWSD-52.0* Plt Ct-30*
___ 12:00AM BLOOD WBC-0.5* RBC-2.44* Hgb-7.5* Hct-21.3* 
MCV-87 MCH-30.7 MCHC-35.2 RDW-15.3 RDWSD-48.2* Plt Ct-5*#
___ 12:00AM BLOOD WBC-0.3* RBC-2.11* Hgb-6.6* Hct-18.8* 
MCV-89 MCH-31.3 MCHC-35.1 RDW-14.8 RDWSD-48.0* Plt Ct-10*#
___ 12:00AM BLOOD WBC-0.5* RBC-2.47* Hgb-7.4* Hct-21.7* 
MCV-88 MCH-30.0 MCHC-34.1 RDW-13.9 RDWSD-45.2 Plt Ct-29*#
___ 11:30PM BLOOD Neuts-4* Bands-0 Lymphs-8* Monos-48* 
Eos-0 Baso-0 ___ Myelos-0 Blasts-40* Other-0 
AbsNeut-3.30 AbsLymp-6.61* AbsMono-39.65* AbsEos-0.00* 
AbsBaso-0.00*
___ 01:29PM BLOOD Neuts-12* Bands-0 Lymphs-13* Monos-38* 
Eos-0 Baso-0 ___ Myelos-3* Blasts-34* AbsNeut-7.48* 
AbsLymp-8.10* AbsMono-23.67* AbsEos-0.00* AbsBaso-0.00*
___ 09:38PM BLOOD Neuts-35 Bands-0 ___ Monos-15* 
Eos-1 Baso-0 ___ Myelos-0 Blasts-30* AbsNeut-3.05 
AbsLymp-1.65 AbsMono-1.31* AbsEos-0.09 AbsBaso-0.00*
___ 03:15PM BLOOD Neuts-36 Bands-1 Lymphs-62* Monos-0 Eos-0 
Baso-0 ___ Myelos-0 Blasts-1* AbsNeut-0.26* 
AbsLymp-0.43* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Neuts-0.0* Lymphs-98.0* Monos-2.0* 
Eos-0.0* Baso-0.0 AbsNeut-0.00*# AbsLymp-0.49* AbsMono-0.01* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Neuts-12* Bands-0 Lymphs-88* Monos-0 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-0.05* 
AbsLymp-0.35* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Neuts-29* Bands-1 Lymphs-69* Monos-0 
Eos-0 Baso-0 Atyps-1* ___ Myelos-0 NRBC-1* AbsNeut-0.15* 
AbsLymp-0.35* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 02:40PM BLOOD ALT-21 AST-18 LD(___)-441* AlkPhos-46 
TotBili-0.4
___ 10:00PM BLOOD ALT-22 AST-13 LD(___)-303* AlkPhos-44 
TotBili-0.8
___ 12:00AM BLOOD ALT-21 AST-14 LD(___)-281* AlkPhos-36* 
TotBili-0.9
___ 12:00AM BLOOD ALT-19 AST-14 LD(___)-158 AlkPhos-37* 
TotBili-0.4
___ 03:15PM BLOOD Hapto-232*
___ 06:14AM BLOOD TSH-4.7*
___ 12:00AM BLOOD 25VitD-22*
___ 12:00AM BLOOD CMV VL-NOT DETECT

DISCHARGE LABS:
___ 12:00AM BLOOD WBC-1.8* RBC-2.81* Hgb-8.6* Hct-25.5* 
MCV-91 MCH-30.6 MCHC-33.7 RDW-14.4 RDWSD-46.9* Plt ___
___ 12:00AM BLOOD Neuts-63.2 ___ Monos-6.0 Eos-0.0* 
Baso-0.0 Im ___ AbsNeut-1.15*# AbsLymp-0.54* AbsMono-0.11* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Glucose-136* UreaN-10 Creat-0.5 Na-136 
K-3.9 Cl-99 HCO3-22 AnGap-15
___ 12:00AM BLOOD ALT-42* AST-23 LD(___)-167 AlkPhos-59 
TotBili-0.4
___ 12:00AM BLOOD Albumin-3.2* Calcium-7.9* Phos-2.5* 
Mg-2.0 UricAcd-2.5*
___ 12:00AM BLOOD Hapto-230*

IMAGING/STUDIES:
TTE (___): Preserved biventricular systolic function. Mildy 
dilated aortic root and ascending aorta. Borderline pulmonary 
artery systolic hypertension. 

CT Neck (___): 1. No evidence of rim enhancing abscess or 
drainable fluid collection.
2. significant interval decrease in bilateral lymphadenopathy 
since ___ with slightly enlarged lymph nodes remaining at cervical 
level 2 a.

CT C/A/P (___): 1. Acute colonic diverticulitis as 
described.  No free air or abscess.
2. Part solid pulmonary nodule measuring 7 mm.  Please follow up 
per
guidelines below.

CT Sinus (___): 
1. Mild chronic paranasal sinus disease, as described above.  No 
evidence of
fluid collection concerning for abscess formation.
2. Left maxillary premolar dental ___ and ___ maxillary molar 
periodontal
disease.  Formal dental evaluation is advised.

CT Chest (___): 
1. Diffuse millimetric peribronchovascular ___ 
nodularity,
nonspecific, suggestive of infection or inflammation.
2. Interval increase in size and solid appearance of a 
previously described
partially solid ground-glass nodule in the right upper lobe, 
with solid
component measuring approximately 8-9 mm, since ___.
3. Upper lobe predominance of mild centrilobular emphysema.
4. The ascending thoracic aorta is mildly prominent, measuring 
up to 3.8 cm.
5. Partially visualized hypodense lesions in the liver, possibly 
hepatic
cysts.

 
Brief Hospital Course:
Mr. ___ is a ___ male with no significant past 
medical
history who was referred from an outside hospital with new acute 
myelogenous leukemia in the setting of subacute fevers, 
shortness of breath, and peritonsillar phlegmon. He received 
induction chemotherapy with 7+3. His course was complicated by 
acute diverticulitis and fever of unknown origin. He was 
ultimately deemed stable for discharge.

ACTIVE ISSUES
============
#Acute myelogenous leukemia: The patient was transferred from 
___ in the setting of several months of 
intermittent fevers, decreased exercise tolerance, and new 
peritonsillar phlegmons. A CBC at the OSH showed a white blood 
cell count of 67,000 and 30% myeloid blasts on smear. He was 
transferred to ___ for further workup. A bone marrow biopsy on 
admission at ___ was consistent with AML, normal karyotype, 
FLT3(-), IDH2(+), NPM1(+), RAD21(+), CEBPA (-). The patient was 
initially started on Hydrea, steroids, and fluids before 
beginning 7+3 on ___. He tolerated chemotherapy well with 
only mild nausea, grade 2 mucositis, a petechial rash on the 
bilateral thighs, and increased fatigue. Bone marrow biopsy on 
day 14 of his chemotherapy cycle showed chemoablation. He 
otherwise remained stable. Pt was discharged after his D28 bone 
marrow biopsy, results pending on DC. 

#Peritonsillar phlegmon/abscess
#Acute diverticulitis
#Neutropenic fever: The patient initially presented with 
subacute fevers. These were likely due to a combination of his 
AML and peritonsillar phlegmons. He was initially started on 
Zosyn with subsequent decrease in tonsil size and exudate. 
However, on ___, the patient became febrile to 100.9. He was 
subsequently switched to cefepime and Flagyl. The patient 
continued to be febrile, Vancomycin was added on ___. 
Throughout these febrile episodes, the patient otherwise 
remained HDS, +diarrhea, C. diff negative. CT Chest/A/P on 
___ showed findings consistent with acute sigmoid 
diverticulitis and stable peritonsillar phlegmons. Pt continued 
to be intermittently febrile between ___ and ___, Vanc was DC'd 
on ___, switched from cefepime to meropenem on ___ due to 
concern for drug fever. Pt ultimately defervesced on ___. 
Blood and urine cultures remained negative throughout the 
entirety of the patient's febrile episodes. It was thought that 
the last week of fevers may have been drug-related (vancomycin 
vs. cefepime).

CHRONIC ISSUES
NONE

TRANSITIONAL ISSUES:
#NEW MEDS

[]Has AML with favorable mutation profile; plan is for HiDAC 
with curative intent
[]Will need follow-up of day ___ bone marrow biopsy
[]CT chest showed incidental pulmonary nodule, will need CT or 
PET follow-up in 3 months to monitor for interval change

FULL CODE
Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Vitamin D ___ UNIT PO 1X/WEEK (TH) Duration: 8 Doses  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
acute myelogenous leukemia
peritonsillar phlegmon
acute diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
- You had swollen tonsils; lab tests also showed you had a very 
high number of white blood cells that were concerning for 
leukemia

What was done while I was in the hospital?
- You had a bone marrow biopsy that showed you had a cancer 
called acute myeloid leukemia
- You were started on chemotherapy; a repeat of your bone marrow 
biopsy after chemotherapy showed that there were no visible 
leukemia cells
- You began to have fevers and were started on antibiotics; we 
then found that you had an infection in your colon called acute 
diverticulitis that was being treated with the antibiotics
- You kept having fevers, but otherwise felt fine; we think they 
were due to one of the medications that you were taking in the 
hospital
- Your counts slowly recovered and you were determined to be 
safe to go home
- You had a repeat bone marrow biopsy on the day before you 
left, the results of which are pending. 

What should I do when I get home from the hospital?
- Be sure to take all of your medications as prescribed, 
especially your medications to prevent infections
- Go to all of your follow-up appointments with your oncologist. 
Your first follow up appointment is next ___. 
- If you have fevers, chills, or generally feel unwell, please 
call your oncologist or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___